US04877887
Preparation of dimethoxymaleic anhydride
555 g of dimethoxymaleimide in 2 l of 5% strength NaOH were stirred for 2 days at room temperature. Thereafter, the mixture was acidified and extracted thoroughly with methylene chloride. After the organic phase had been separated off and the solvent removed in a rotary evaporator, 486 g of a product of melting point 41°-43° C. remained.

reactant | dimethoxymaleimide | 555 g | COC1=C(C(=O)NC1=O)OC | C6H7NO4
reactant | NaOH | [OH-].[Na+]
product | dimethoxymaleic anhydride | CO/C/1=C(/C(=O)OC1=O)\OC | C6H6O5
